US07531532B2
4-(4-Amino-3-trifluoromethylphenoxy)pyridin-2-ylamine
To a solution of 4-(4-nitro-3-trifluoromethylphenoxy)pyridin-2-ylamin (400 mg, 1.34 mmol) in methanol (20 ml) was added 10% palladium carbon (146 mg), followed by stirring under a hydrogen atmosphere at room temperature for 10 hrs. The reaction mixture was filtered to remove the catalyst. The filtrate was concentrated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; ethyl acetate) to provide the titled compound (201 mg, 55.4%) as a brown oil.

reactant | 4-(4-nitro-3-trifluoromethylphenoxy)pyridin-2-ylamin | 1.34 mmol, 400 mg | [N+](=O)([O-])C1=C(C=C(OC2=CC(=NC=C2)N)C=C1)C(F)(F)F | C12H8F3N3O3
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium carbon | 146 mg | [C].[Pd]
product | 4-(4-Amino-3-trifluoromethylphenoxy)pyridin-2-ylamine | 201 mg, 55.4% | NC1=C(C=C(OC2=CC(=NC=C2)N)C=C1)C(F)(F)F | C12H10F3N3O
